US08211908B2
To a solution of 0.11 g of tert-butyl (1-(2-(6-chloro-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate in 3 mL of dioxane, 25 mg of tert-butyl carbamate and 82 mg of cesium carbonate were added. Thereto were added 2.5 mg of tris(dibenzylideneacetate)dipalladium(0) and 3.1 mg of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene under an argon atmosphere. The mixture was stirred at 80 to 90° C. for 2 hours under an argon atmosphere. The insoluble substance was filtered off, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=20:1 to obtain 78 mg of tert-butyl (1-(2-(6-((tert-butoxycarbonyl)amino)-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate as a light brown oily substance.

reactant | tert-butyl (1-(2-(6-chloro-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate | 0.11 g | ClC=1C=CC2=C(N(C(C=N2)=O)CCN2CCC(CC2)N(C(OC(C)(C)C)=O)CC2=CC3=C(C=N2)OCCO3)N1 | C27H33ClN6O5
reactant | tert-butyl carbamate | 25 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 82 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 3.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | tert-butyl (1-(2-(6-((tert-butoxycarbonyl)amino)-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate | 78 mg | C(C)(C)(C)OC(=O)NC=1C=CC2=C(N(C(C=N2)=O)CCN2CCC(CC2)N(C(OC(C)(C)C)=O)CC2=CC3=C(C=N2)OCCO3)N1 | C32H43N7O7
